datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1CC(/C=C2\CC(C)(C)CN2)=[N:10]C1(C)C.CCC1CCC[N+:21]1(C)[H:20]>>CC1CC(/C=C2\CC(C)(C)CN2)=[N+:10]([H:20])C1(C)C.CCC1CCC[N:21]1C 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ccccn2)cc1.O=S(=O)(c1ccc(F)cc1)[NH:21][H:20]>>Nc1ccc(S(=O)(=O)[N:10](c2ccccn2)[H:20])cc1.O=S(=O)(c1ccc(F)cc1)[NH-:21] 10=20;20,21=21",
"NC(=O)Nc1[nH]c[n:10]c1C(=O)[O-].NC(CC[NH2+]c1ccccc1)=[N+:21](O)[H:20]>>NC(=O)Nc1[nH]c[n+:10]([H:20])c1C(=O)[O-].NC(CC[NH2+]c1ccccc1)=[N:21]O 10=20;20,21=21",
"O=Cc1ccc(C[NH2:10])o1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=Cc1ccc(C[NH2+:10][H:20])o1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)CC[N+:21]1([H:20])CCOCC1.Cc1cc(I)c([O-:10])c(I)c1>>CC(=O)CC[N:21]1CCOCC1.Cc1cc(I)c([O:10][H:20])c(I)c1 10=20;20,21=21",
"Nc1c2[n-]cnc2nc([NH-:10])[n+]1[O-].c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH+:21]2[H:20])c1>>Nc1c2[n-]cnc2nc([NH:10][H:20])[n+]1[O-].c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH:21]2)c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].OCC(S)C[S-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].OCC(S)C[S:10][H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)C(=O)OCC[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1C[C@@H]2[C@@H](O)c1ccnc2ccccc12.c1ccc(CC(c2nnn[n-]2)[NH2+:21][H:20])cc1>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@@H]2[C@@H](O)c1ccnc2ccccc12.c1ccc(CC(c2nnn[n-]2)[NH2:21])cc1 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)CO.C[As](C)(C)=[O+:21][H:20]>>C/C(=N\[O:10][H:20])C(=O)CO.C[As](C)(C)=[O:21] 10=20;20,21=21",
"CCCC[NH:10]CCC(N)=NO.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCC[NH+:10](CCC(N)=NO)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"O=C(Cc1ccccc1)N[O-:10].O=C1C[C@H](C(=O)O)[C@@H](C(=O)[O:21][H:20])O1>>O=C(Cc1ccccc1)N[O:10][H:20].O=C1C[C@H](C(=O)O)[C@@H](C(=O)[O-:21])O1 10=20;20,21=21",
"CC(C)[NH2+]CC(=O)[O-:10].Nc1ccc(S(=O)(=O)[N:21](c2ncco2)[H:20])cc1>>CC(C)[NH2+]CC(=O)[O:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]c2ncco2)cc1 10=20;20,21=21",
"CC(C)(N)C(C)(C)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(N)C(C)(C)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1[nH]c2ccccc2[n:10]1.c1ccc(-c2cccc3ccc([O:21][H:20])cc23)cc1>>CCc1[nH]c2ccccc2[n+:10]1[H:20].c1ccc(-c2cccc3ccc([O-:21])cc23)cc1 10=20;20,21=21",
"C=C1[C@@H]2CC3C4[C@]56C7[C@H](C[C@]3([C@H]1OC(C)=O)[C@@]5(O)C2)[N:10]4C[C@]7(C)C[C@@H](OC(C)=O)[C@@H]6OC(C)=O.O=C(CCC(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1>>C=C1[C@@H]2CC3C4[C@]56C7[C@H](C[C@]3([C@H]1OC(C)=O)[C@@]5(O)C2)[N+:10]4([H:20])C[C@]7(C)C[C@@H](OC(C)=O)[C@@H]6OC(C)=O.O=C(CCC(=O)[O-:21])c1ccc(-c2ccccc2)cc1 10=20;20,21=21",
"CC(C)(C(N)=S)[NH2+:21][H:20].O=S1(=O)C=C([O-:10])c2ccccc21>>CC(C)(C(N)=S)[NH2:21].O=S1(=O)C=C([O:10][H:20])c2ccccc21 10=20;20,21=21",
"CC(C)NC(=S)[S:21][H:20].CN1C=NC=C(c2ccccc2)C1=[O:10]>>CC(C)NC(=S)[S-:21].CN1C=NC=C(c2ccccc2)C1=[O+:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"C[C@H]1C[C@@H]2CC[N+:21]1([H:20])C2.O=S(=O)([O-])CC(O)C[N:10]1CCOCC1>>C[C@H]1C[C@@H]2CC[N:21]1C2.O=S(=O)([O-])CC(O)C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C#CCCC(=O)[O-:10].Nc1ccc([NH2+:21][H:20])c(N)c1>>C#CCCC(=O)[O:10][H:20].Nc1ccc([NH2:21])c(N)c1 10=20;20,21=21",
"C[NH2+]CCC[NH+:21](C)[H:20].Oc1ccc2c[n:10]ccc2c1>>C[NH2+]CCC[NH:21]C.Oc1ccc2c[n+:10]([H:20])ccc2c1 10=20;20,21=21",
"CC(C)Oc1ccc(C(=O)[O-:10])cc1.COc1cccc([NH2+:21][H:20])c1>>CC(C)Oc1ccc(C(=O)[O:10][H:20])cc1.COc1cccc([NH2:21])c1 10=20;20,21=21",
"CCC(C)(O)c1cnc(CC(C)C)c([O-:10])[n+]1[O-].O=Cc1ccccc1C(=O)[O:21][H:20]>>CCC(C)(O)c1cnc(CC(C)C)c([O:10][H:20])[n+]1[O-].O=Cc1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"CCN(CC)c1nc(N)[n+:21]([H:20])c(N(CC)CC)n1.Cc1n[nH]c([O-:10])c1-c1ccccc1>>CCN(CC)c1nc(N)[n:21]c(N(CC)CC)n1.Cc1n[nH]c([O:10][H:20])c1-c1ccccc1 10=20;20,21=21",
"Cc1ccc([NH2:10])cc1Br.[NH-]S(=O)(=O)c1cc2c(cc1Cl)NC[N:21]([H:20])S2(=O)=O>>Cc1ccc([NH2+:10][H:20])cc1Br.[NH-]S(=O)(=O)c1cc2c(cc1Cl)NC[N-:21]S2(=O)=O 10=20;20,21=21",
"O=C(c1ccc([N+](=O)[O-])o1)[O-:10].[O-]c1cc[n+:21]([H:20])c([S-])[nH+]1>>O=C(c1ccc([N+](=O)[O-])o1)[O:10][H:20].[O-]c1cc[n:21]c([S-])[nH+]1 10=20;20,21=21",
"CCNC(=O)C1CCCC[NH:10]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCNC(=O)C1CCCC[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1CC[N:10](C(C)C=C(c2cccs2)c2cccs2)CC1.c1ccc([I+]c2cccc([NH2+:21][H:20])c2)cc1>>CC1CC[N+:10](C(C)C=C(c2cccs2)c2cccs2)([H:20])CC1.c1ccc([I+]c2cccc([NH2:21])c2)cc1 10=20;20,21=21",
"CC(C)(C#N)CC(=O)[O-:10].O=Cc1cc(Cl)cc([N+](=O)[O-])c1[O:21][H:20]>>CC(C)(C#N)CC(=O)[O:10][H:20].O=Cc1cc(Cl)cc([N+](=O)[O-])c1[O-:21] 10=20;20,21=21",
